US08541596B2
N,N-Bis(2,4,5-trifluorobenzyl)-1H-benzo[d]imidazol-5-amine
The compound was synthesized starting from N1-Boc-benzimidazol-5-amine (233 mg; 1 mmol; 1 eq.), 2,4,5-trifluorbenzylbromide (563 mg; 2.5 mmol; 2.5 eq.) and K2CO3 (345 mg; 2.5 mmol; 2.5 eq.) according to method 4; Yield: 0.172 (40.9%); MS m/z: 422.2 [M+H]+; 1H-NMR (500 MHz, DMSO d6): δ 4.68 (s, 4H); 6.74 (dd, 1H, 4J=2.1 Hz, 3J=8.9 Hz); 6.78 (br s, 1H); 7.23-7.29 (m, 2H); 7.39 (d, 1H, 3J=8.9 Hz); 7.51-7.56 (m, 2H); 7.97 (s, 1H); 12.03 (br s, 1H); HPLC (METHOD [A]): rt 16.46 min (100%)

reactant | N1-Boc-benzimidazol-5-amine | 1 mmol, 233 mg, 1 eq. | C(=O)(OC(C)(C)C)N1C=NC2=C1C=CC(=C2)N | C12H15N3O2
reactant | 2,4,5-trifluorbenzylbromide | 2.5 mmol, 563 mg, 2.5 eq. | FC1=C(CBr)C=C(C(=C1)F)F | C7H4BrF3
reactant | K2CO3 | 2.5 mmol, 345 mg, 2.5 eq. | C(=O)([O-])[O-].[K+].[K+]
product | N,N-Bis(2,4,5-trifluorobenzyl)-1H-benzo[d]imidazol-5-amine | FC1=C(CN(C2=CC3=C(NC=N3)C=C2)CC2=C(C=C(C(=C2)F)F)F)C=C(C(=C1)F)F | C21H13F6N3
